US06855710B2
(Z)-3-[1-(3-tert.butoxycarbonylaminomethyl-phenylamino)-1-phenyl-methylidene]-2-indolinone
Prepared analogously to Example 9 from 1-benzoyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone and 3-tert.butoxycarbonylaminomethyl-aniline in triethylamine.

reactant | 1-benzoyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone | C(C1=CC=CC=C1)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)Cl)=O | C22H14ClNO2
reactant | 3-tert.butoxycarbonylaminomethyl-aniline | C(C)(C)(C)OC(=O)NCC=1C=C(N)C=CC1 | C12H18N2O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (Z)-3-[1-(3-tert.butoxycarbonylaminomethyl-phenylamino)-1-phenyl-methylidene]-2-indolinone | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C27H27N3O3
